US07034049B1
N-(3-cyclopropyl-1H-pyrazol-5-yl)-4-bromobenzamide
122 mg (loading 1.91 mmol/g, 0.233 mmol) of polystyrene supported N-methylmorpholine were suspended in 4 ml of chloromethane and then treated with 25.6 mg (0.117 mmol) of 4-bromobenzoyl chloride followed by 4.8 mg (0.039 mmol) of 3-cyclopropyl-5-amino-pyrazole. After 48 hours under stirring at room temperature the resin was separated by filtration and washed with 2 ml of dichloromethane. The filtrate was evaporated to dryness, the residue re-dissolved in 4 ml of dichloromethane and 100 mg of polystyrene supported trisamine were added. After 48 hours or stirring at room temperature the resin was filtered, washed with 2 ml of dichloromethane and concentrated to give, after triturating with diethylether, 9.3 mg (78% yield) of the title compound.

reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 4-bromobenzoyl chloride | 0.117 mmol, 25.6 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 3-cyclopropyl-5-amino-pyrazole | 0.039 mmol, 4.8 mg | C1(CC1)C1=NNC(=C1)N | C6H9N3
reactant | diethylether | C(C)OCC | C4H10O
solvent | chloromethane | 4 ml | ClC | CH3Cl
product | N-(3-cyclopropyl-1H-pyrazol-5-yl)-4-bromobenzamide | 9.3 mg, 78% yield | C1(CC1)C1=NNC(=C1)NC(C1=CC=C(C=C1)Br)=O | C13H12BrN3O
